US04843163
Also, Fife et al., cited hereabove and Heterocycles 22:93-96(1984), reported the reaction of 3-methylpyridine-1-oxide with dimethyl-carbamoyl chloride to give 3-methyl-1-dimethylcarbamoyloxypyridinium chloride. Reaction of this pyridinium salt with potassium cyanide in water gave 3-methyl-2-cyanopyridine (89%) and the 6-isomer (11%).

reactant | 3-methylpyridine-1-oxide | CC=1C=[N+](C=CC1)[O-] | C6H7NO
reactant | dimethyl-carbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 3-methyl-1-dimethylcarbamoyloxypyridinium chloride | [Cl-].CC=1C=[N+](C=CC1)OC(N(C)C)=O | InChI=1S/C9H13N2O2.ClH/c1-8-5-4-6-11(7-8)13-9(12)10(2)3;/h4-7H,1-3H3;1H/q+1;/p-1
